US03948915
4.21 g of methyl α-phenylcyanoacetimidate hydrochloride and 1.26 g of cyanamide were mixed at room temperature and the mixture was made to react for 5 hours. Then, 50 ml of benzene was added to the reaciton mixture to extract the resulting product. The extracted solution was concentrated to dryness in vacuo and 3.06 g of methyl N-cyano-α-phenylcyanoacetimidate was obtained (yield 76.8%).

reactant | methyl α-phenylcyanoacetimidate hydrochloride | 4.21 g | Cl.C1(=CC=CC=C1)C(C(OC)=N)C#N
reactant | cyanamide | 1.26 g | N#CN | CH2N2
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | methyl N-cyano-α-phenylcyanoacetimidate | 3.06 g, yield 76.8% | C(#N)N=C(C(C1=CC=CC=C1)C#N)OC | C11H9N3O
